US07655670B2
1-((tetrahydropyran-2-yl)oxy-ethyl)-5-methyl-spiro[indoline-3,4′-piperidin]-2-one (Compound #2)
5-Methyl-spiro[indoline-3,4′-piperidin]-2-one (prepared as in Org. Prep. Proced. Int. (1995), 27(6), 691-694)(0.05 g, 0.023 mmol) was dissolved in dry N,N-dimethylformamide (4.0 mL). To the reaction mixture was then added at 0° C. sodium hydride (60% in mineral oil, 10.0 mg, 0.28 mmol) under nitrogen atmosphere and the reaction mixture was stirred at 0° C. for one hour. To the reaction mixture was then added at 0° C. 2-(2-bromo-ethoxy)-tetrahydro-pyran (0.048 g, 0.023 mmol). The reaction mixture was stirred at 0° C. for 1 hour, then at room temperature under nitrogen atmosphere for 18 hours. The reaction mixture was then partitioned between water-ice and ethyl acetate. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield the title compound as a crude oil. The crude oil was purified via flash chromatography (3% methanol/dichloromethane) to yield the title compound as an oil.

reactant | 5-Methyl-spiro[indoline-3,4′-piperidin]-2-one | 0.023 mmol, 0.05 g | CC=1C=C2C(=CC1)NC(C21CCNCC1)=O | C13H16N2O
reactant | sodium hydride | 0.28 mmol, 10.0 mg | [H-].[Na+]
reactant | 2-(2-bromo-ethoxy)-tetrahydro-pyran | 0.023 mmol, 0.048 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | 1-((tetrahydropyran-2-yl)oxy-ethyl)-5-methyl-spiro[indoline-3,4′-piperidin]-2-one | O1C(CCCC1)OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)C)=O | C20H28N2O3
